US05541229
4'-[(2-n-Propylsulphinylmethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 63 from 4'-[(2-n-propylthiomethyl-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid and hydrogen peroxide in glacial acetic acid.

reactant | 4'-[(2-n-propylthiomethyl-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic acid | C(CC)SCC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C25H24N2O2S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4'-[(2-n-Propylsulphinylmethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CC)S(=O)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C25H24N2O3S
